US07138432B1
Stage 79.5: [(4-But-3-enyloxy-benzensulfonyl)-(4-[1,2,4] triazol-1-yl-benzyl)-amino]-acetic acid ethyl ester
To a solution of 2 g (7.683 mmol) of (4-[1,2,4] triazol-1-yl-benzylamino)-acetic acid ethyl ester in 15 ml of dioxane and 15 ml of H 20, 2.3 g (9.22 mmol) of 4-but-3-enyloxy-benzenesulfonyl chloride and 1.3 ml (9.22 mmol) of triethyl amine are successively added at 0–5° C. After being stirred for 18 h at r.t., the reaction mixture is diluted with H 20 and extracted with AcOEt. The combined extracts are washed with brine, dried over MgSO4 and concentrated under reduced pressure. The residue is purified by column chromatography on silica gel to give the title compound. 1H-NMR (400 MHz, CDCl3): 1.17 (t, 3H, J=7.04 Hz), 2.55–2.65 (m, 2H), 3.95 (s, 2H), 4.07 (t, 2H, J=7.04 Hz), 4.09 (t, 2H, J=6.56 Hz), 4.53 (s, 2H), 5.10–5.25 (m, 2H), 5.85–5.95 (m, 1H), 6.99 (d, 2H, J=8.04 Hz), 7.44 (d, 2H, J=7.56 Hz), 7.64 (d, 2H, J=8.04 Hz), 7.82 (d, 2H, J=7.56 Hz), 8.11 (s, 1H), 8.55 (s, 1H).

reactant | (4-[1,2,4] triazol-1-yl-benzylamino)-acetic acid ethyl ester | 7.683 mmol, 2 g | C(C)OC(CNCC1=CC=C(C=C1)N1N=CN=C1)=O | C13H16N4O2
reactant | 4-but-3-enyloxy-benzenesulfonyl chloride | 9.22 mmol, 2.3 g | C(CC=C)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H11ClO3S
reactant | triethyl amine | 9.22 mmol, 1.3 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | [(4-But-3-enyloxy-benzensulfonyl)-(4-[1,2,4] triazol-1-yl-benzyl)-amino]-acetic acid ethyl ester | C(C)OC(CN(CC1=CC=C(C=C1)N1N=CN=C1)S(=O)(=O)C1=CC=C(C=C1)OCCC=C)=O | C23H26N4O5S
